US04870064
n-Propyltriphenylphosphonium bromide (4.66 g) was dissolved in dry diethyl ether (50 ml), and n-butyl lithium (7.6 ml; 1.6N) was added thereto at 0° C. under nitrogen stream, followed by stirring at room temperature for 3 hours. A solution of 3-chloro-4,5-dipropargyloxybenzaldehyde (3.0 g) in dry diethyl ether (50 ml) was dropwise added to the resultant mixture, which was stirred at room temperature overnight, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using toluene as an eluent to give 1-(3-chloro-4,5-dipropargyloxyphenyl)butene (2.7 g). nD25.0 1.5602.

reactant | n-Propyltriphenylphosphonium bromide | 4.66 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | 1.6N, 7.6 ml | C(CCC)[Li]
reactant | 3-chloro-4,5-dipropargyloxybenzaldehyde | 3.0 g | ClC=1C=C(C=O)C=C(C1OCC#C)OCC#C | C13H9ClO3
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-(3-chloro-4,5-dipropargyloxyphenyl)butene | 2.7 g | ClC=1C=C(C=C(C1OCC#C)OCC#C)C=CCC | C16H15ClO2
